US08283353B2
4′-(hydroxymethyl)-3′-(trifluoromethyl)biphenyl-2-carbonitrile
To a solution (50 mL) of 4′-formyl-3′-(trifluoromethyl)biphenyl-2-carbonitrile (3.2 g) in methanol was added sodium borohydride (0.66 g), and the mixture was stirred at room temperature for 1 hr. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (3.1 g, 95%).

reactant | 4′-formyl-3′-(trifluoromethyl)biphenyl-2-carbonitrile | 50 mL, 3.2 g | C(=O)C1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)C(F)(F)F | C15H8F3NO
reactant | sodium borohydride | 0.66 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 4′-(hydroxymethyl)-3′-(trifluoromethyl)biphenyl-2-carbonitrile | 3.1 g, 95% | OCC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)C(F)(F)F | C15H10F3NO
